US04126689
To a stirred mixture of 15 parts of N-(4-chlorophenyl)-4-piperidinamine, 12 parts of N,N-diethylethanamine in 130 parts of benzene is added dropwise a solution of 10.3 parts of 3-bromo-1-propene in 70 parts of benzene. Upon completion, the whole is stirred first for 20h. 30 at room temperature and further for 40 minutes at reflux. The reaction mixture is cooled, filtered and the filtrate is evaporated. The residue is taken up in 1,1'-oxybisethane and treated with activated charcoal. The latter is filtered off and the 1,1'-oxybisethane is evaporated again, yielding 2.9 parts of N-(4-chlorophenyl)-1-(2-propenyl)-4-piperidinamine; mp. 90° C.

reactant | N-(4-chlorophenyl)-4-piperidinamine | ClC1=CC=C(C=C1)NC1CCNCC1 | C11H15ClN2
reactant | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
reactant | 3-bromo-1-propene | BrCC=C | C3H5Br
solvent | benzene | C1=CC=CC=C1 | C6H6
product | N-(4-chlorophenyl)-1-(2-propenyl)-4-piperidinamine | ClC1=CC=C(C=C1)NC1CCN(CC1)CC=C | C14H19ClN2
